US07531553B2
Step A: 4-Chloro-pyridine-2-carboxylic acid amide
Aqueous NH4OH (40%, 250 mL) was added dropwise at 0° C. to a suspension of 4-chloro-pyridine-2-carbonyl chloride (75 g, 533 mmol) in EtOAc. Upon addition, the temperature rose to 30° C. The mixture was stirred for 2 h at RT then kept at RT for 12 h without stirring. MTBE (250 mL) was added to the mixture and the resulting emulsion was filtered. The solid was washed with EtOAc. The MTBE/EtOAc layer was washed twice with water and once with 5% Na2CO3, then dried over MgSO4 and concentrated under vacuum. The resulting solid was suspended in EtOAc several times and filtered out to give the desired compound.

reactant | NH4OH | 250 mL | [NH4+].[OH-]
reactant | 4-chloro-pyridine-2-carbonyl chloride | 533 mmol, 75 g | ClC1=CC(=NC=C1)C(=O)Cl | C6H3Cl2NO
reactant | MTBE | 250 mL | CC(C)(C)OC | C5H12O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-Chloro-pyridine-2-carboxylic acid amide | ClC1=CC(=NC=C1)C(=O)N | C6H5ClN2O
